US03987047
11-Chloro-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline dihydrochloride was prepared by hydrolysis of 11-chloro-3-phenoxycarboxyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline or 11-chloro-3-ethoxycarbonyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline with concentrated hydrochloric acid. Yield of the dihydrochloride: 69% of theory; m.p. 261° C. (decomp.).

reactant | 11-chloro-3-ethoxycarbonyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | ClC1=C2C(=NC=3C=CC=CC13)CCN(CC2)C(=O)OCC | C16H17ClN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 11-Chloro-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline dihydrochloride | Cl.Cl.ClC1=C2C(=NC=3C=CC=CC13)CCNCC2 | InChI=1S/C13H13ClN2.2ClH/c14-13-9-3-1-2-4-11(9)16-12-6-8-15-7-5-10(12)13;;/h1-4,15H,5-8H2;2*1H
